Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left flank pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ with PMHx of simple renal cysts, 
anemia, nephrolithiasis, and PUD who presents with left flank 
pain. 

Per report, the patient reports that he has had mild left flank 
pain for the past several months. He had a CT A/P performed in 
___ which was reportedly normal. However, the pain 
acutely worsened as of yesterday, becoming stabbing and more 
intense ("100/10"). As a result, the patient presented to 
___ ER. There, CT A/P demonstrated large perirenal 
hematoma vs AVM vs renal cyst. The patient left AMA from ER not 
wishing to undergo observation. He followed up with his PCP 
today who referred him into ___ for urgent urology evaluation. 
His pain continued to worsen. Labs yesterday were notable for 
Hgb 12.9, Cr 1.4. 

In ED initial VS: 98.5, ___, 20, 100% RA  
- Exam notable for: tender to deep palpation of the LLQ, without 
rebound or guarding. Notable CVA tenderness on left
- Labs significant for: Hgb 10.3-> 8.9_> 8.1, WBC 14.1-> 13.6-> 
12.0, Lactate 1.7, Cr 1.9, INR 1.3  
Patient was given: 
___ 18:34 IV Morphine Sulfate 4 mg ___  
___ 20:20 IVF  NS  ___ Started  
___ 20:20 IV Morphine Sulfate 4 mg ___  
___ 22:04 IVF  NS 1000 mL ___ Stopped (1h 
___  
___ 22:04 IV Morphine Sulfate 4 mg ___  
___ 00:06 IVF  NS ( 1000 mL ordered) ___ 
Started  
___ 00:12 IV Morphine Sulfate 4 mg ___ 
 
Imaging notable for: 
- Renal US:  1. Large, left perinephric hematoma measuring up to 
9.0 x 7.8 cm. It is difficult to discretely measure the kidney 
separate from the hematoma, but there is likely some degree of 
mass effect on the left kidney. 2. 9 mm echogenic lesion arising 
from the interpolar region of the right kidney. Differential 
includes an angiomyolipoma or renal cell carcinoma. Correlation 
with the recent CT is needed.

- CT A/P:  1. 6.4 x 0.9 x 2.3 cm left perinephric hematoma, 
likely originating in the parenchyma at the upper/lateral pole 
of the left kidney. Blood products track about the spleen and 
along the retroperitoneum into the pelvis. There is no 
hydronephrosis.
2. The all nonhemorrhagic left pleural effusion with subjacent 
atelectasis.
3. Bilateral nonobstructing renal calculi measuring up to 4 mm.
4. Diverticulosis without evidence of diverticulitis 

Consults:
- Urology consult: Patient is anemic with ___. Afebrile, 
tachycardic on presentation but now normalized with normal BP. 
Recommend admission for: Bed rest, Serial hematocrits, Frequent 
vital checks, If acute decompensation, ___ for embolization. d/w 
Dr. ___ who agrees with plan. Will examine patient 
in AM.
- ___ consult: Continue to trend ___ and monitor vital signs 
closely. Transfuse to keep Hb >7. Will see and evaluate patient 
in AM. Please notify ___ if Hct drop of 4 or greater or patient 
becomes hemodynamically unstable.

VS prior to transfer: 102, 166/94, 17, 94% RA
 
On arrival to the MICU, patient reports that he is feeling much 
better after the APAP he received in the ED. Yesterday he was 
unable to move around in the bed but right now he is able to 
reposition himself without pain. He tells me the pain has been 
ongoing for several months but became acute on ___. He has 
had very little to eat or drink since then and has been lying in 
bed. No dysuria, hematuria. No melena. He did have a history of 
gastric ulcer resulting in transfusion depending 
anemia/hospitalization back in ___. Currently he 
denies anticoagulation but states that he uses Excedrin migraine 
___ tablets everyday for over a year.    
 
Past Medical History:
Gastric Ulcer
Anemia
Nephrolithiasis
Renal cysts
 
Social History:
___
Family History:
No family history of renal cytsts
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, ___ systolic murmur 
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding
GU: No CVA tenderness. 
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No ecchymosis  
NEURO: AOx3, moving all extremities, no focal deficits  

DISCHARGE PHYSICAL EXAM:
=======================
Vitals: Temp: 98.1 PO BP: 152/92 manual Dyspnea: 0 RASS: 0 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM  
Neck: supple 
Lungs: CTA bilaterally 
CV: RRR, nl S1 S2, no murmurs, rubs, gallops  
Abdomen: soft, NT, ND, NABS. TTP on L flank, ?ecchymosis, faint 
Ext: WWP, no edema 
Skin: No rash 
Neuro: CN2-12 grossly intact 

 
Pertinent Results:
ADMISSION LABS:
==============
___ 06:20PM BLOOD WBC-14.1* RBC-4.26* Hgb-10.3* Hct-33.5* 
MCV-79* MCH-24.2* MCHC-30.7* RDW-16.4* RDWSD-46.7* Plt ___
___ 06:20PM BLOOD Neuts-82.5* Lymphs-9.2* Monos-7.7 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-11.62* AbsLymp-1.30 
AbsMono-1.08* AbsEos-0.00* AbsBaso-0.02
___ 06:20PM BLOOD ___ PTT-28.5 ___
___ 06:20PM BLOOD Glucose-153* UreaN-25* Creat-1.9* Na-140 
K-4.7 Cl-100 HCO3-25 AnGap-15
___ 06:20PM BLOOD LD(___)-152 TotBili-0.5
___ 06:20PM BLOOD Iron-11*
___ 06:20PM BLOOD calTIBC-415 Hapto-274* Ferritn-44 TRF-319
___ 06:30PM BLOOD Lactate-1.7

PERTINENT LABS:
==============
___ 06:20PM BLOOD WBC-14.1* RBC-4.26* Hgb-10.3* Hct-33.5* 
Plt ___
___ 10:17PM BLOOD WBC-13.6* RBC-3.69* Hgb-8.9* Hct-28.7* 
Plt ___
___ 02:52AM BLOOD WBC-12.0* RBC-3.27* Hgb-8.1* Hct-25.4* 
Plt ___
___ 09:58AM BLOOD WBC-12.8* RBC-3.36* Hgb-8.7* Hct-26.2* 
Plt ___
___ 01:03PM BLOOD WBC-11.4* RBC-3.48* Hgb-8.8* Hct-27.4* 
Plt ___
___ 05:20AM BLOOD WBC-9.9 RBC-3.40* Hgb-8.7* Hct-26.7* Plt 
___

___ 06:20PM BLOOD calTIBC-415 Hapto-274* Ferritn-44 TRF-319
___ 06:30PM BLOOD Lactate-1.7

___ BCx: NGTD
___ Urine culture: No growth

DISCHARGE LABS:
==============
___ 01:15PM BLOOD WBC-10.0 RBC-3.39* Hgb-8.4* Hct-26.3* 
MCV-78* MCH-24.8* MCHC-31.9* RDW-15.9* RDWSD-45.1 Plt ___
___ 05:20AM BLOOD Glucose-81 UreaN-20 Creat-1.2 Na-144 
K-4.5 Cl-102 HCO3-23 AnGap-19*
___ 05:20AM BLOOD Calcium-8.6 Phos-3.0 Mg-1.9

PERTINENT IMAGING:
=================
___ Renal Ultrasound:
1.  Large, left perinephric hematoma measuring up to 9.0 x 7.8 
cm.  It is difficult to discretely measure the kidney separate 
from the hematoma, but there is likely some degree of mass 
effect on the left kidney.
2.  9 mm echogenic lesion arising from the interpolar region of 
the right kidney.  Differential includes an angiomyolipoma or 
renal cell carcinoma.  Correlation with the recent CT is needed.

___ CT Abd/pelvis w/ Contrast:
1. 6.4 x 0.9 x 2.3 cm left perinephric hematoma, likely 
originating in the parenchyma at the upper/lateral pole of the 
left kidney.  Blood products track about the spleen and along 
the retroperitoneum into the pelvis.  There is no 
hydronephrosis. 
2. Small nonhemorrhagic left pleural effusion with subjacent 
atelectasis. 
3. Bilateral nonobstructing renal calculi measuring up to 4 mm. 
4. Diverticulosis without evidence of diverticulitis. 
 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with a history of simple renal 
cysts, nephrolithiasis, anemia and PUD who presented with left 
flank pain, found to have a large left perinephric hematoma and 
acute blood loss anemia concering for ruptured renal cyst. 

# Acute blood loss anemia
# Perinephric hematoma 
The patient was noted to have a large left perinephric hematoma 
at the OSH, then represented to ___ for further management. 
His Hgb on admission was 10.3 and dropped rapidly to the 8s. A 
CT abd/pelvis showed a 6.4 x 0.9 x 2.3cm left perinephric 
hematoma, likely originating in the upper lateral pole of the 
left kidney, thought related to a cyst rupture. The patient was 
evaluated by interventional radiology and urology, who 
recommended against  surgical/procedural intervention given his 
hemodynamic stability. Given the rapid drop in ___ in the 
setting of tachycardia, he was given 1u pRBC, intravenous 
fluids, and admitted to the medical ICU for monitoring. His ___ 
stabilized and he remained hemodynamically stable. He was 
discharged home with plan to follow up with his primary care 
provider. 

#Acute on chronic microcytic anemia
Hgb down to ~8 from baseline ___ in the setting of acute 
bleed. Microcytic and iron studies showed significant iron 
deficiency anemia. No signs of hemolysis. Consider further iron 
supplementation as an outpatient. 

___
Presented with Cr 1.9, reported baseline ~1.2-1.3. Likely 
pre-renal in the setting of blood loss. Improved to baseline 
after 2L intravenous fluids and 1u pRBC. 
 
#Leukocytosis
WBC 13.6 on admission, normalized with intravenous fluids. 
Urinalysis was unremarkable and he had no symptoms to prompt a 
CXR. He remained hemodynamically stable and asymptomatic. Likely 
due to stress response from bleed.

#Hypertension
Patient reported previously being diagnosed with hypertension 
though declined medications in the past. BP elevated here up to 
160-170s. He is now interested in starting a medication if his 
BP remains elevated as an outpatient. 

#Headaches
Described a history of chronic frontal headaches without 
concerning neurologic symptoms. Neuro exam was normal. Etiology 
unclear, possibly related to hypertension at home. He had been 
taking large amount of Excedrin, which may  have been causing 
rebound headaches as well. Provided counseling about medication 
overuse. 

TRANSITIONAL ISSUES:
====================
[] Noted on renal US to have 9mm echogenic lesion in the 
interpolar region of the R kidney. This was not seen on CT A/P 
given absence of contrast. Will need further imaging with CT 
w/contrast vs. MRI. 
[] F/U with urology after discharge. Will need repeat renal US 
in 6 weeks per their report. 
[] Repeat ___ at next PCP ___. Hgb at discharge 8.7. 
[] Noted to have mildly elevated INR to 1.3. No evidence of 
liver dysfunction and no clinical suspicion for vitamin K 
deficiency. Consider repeat INR after discharge to trend. 
[] Has h/o iron deficiency anemia, likely worsened by recent 
bleeding. Consider iron supplementation vs. IV Fe infusion after 
discharge. 
[] Noted to have mildly elevated BP. Patient had previously 
refused anti-hypertensive treatment per his report, but may be 
amenable at this time. Consider discussed at PCP ___ 
provided ___ and BP remain stable. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#PRIMARY DIAGNOSIS: 
Left perinephric hematoma
Renal cysts
Acute on chronic anemia

SECONDARY DIAGNOSIS: 
Hypertension 
Acute kidney injury
Headache
Leukocytosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
- You were admitted to the hospital because of bleeding around 
your kidney. 

WHAT HAPPENED IN THE HOSPITAL?
- We monitored your blood counts. 
- We took pictures of your kidneys which showed bleeding around 
your left kidney. 
- An ultrasound of your kidney showed a small mass on your right 
kidney. You will need further imaging of these after discharge. 
- We treated you with IV fluid and with a blood transfusions. 

WHAT SHOULD YOU DO AT HOME?
- You should follow up with your primary care doctors. 
- You should follow up with urology. 

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team
 
Followup Instructions:
___